US06194410B1
0.26 g (2 mmol) of 1(2-hydroxyethyl)-piperazine was added to a solution of 0.35 g (1 mmol) of 3-benzenesulphonyl-7-chloro-5-methyl-2-methylsulphanyl-pyrazolo[1,5 a]pyrimidine and stirred at 60° for 2 hrs. The reaction solution was cooled to RT and evaporated in a high vacuum. The residue was partitioned between 2N NaOH and CH2Cl2. The aqueous phase was extracted three times with CH2Cl2, and he combined organic phases were dried (MgSO4), filtered and evaporated. Subsequent chromatography (SiO2,CH2Cl2/MeOH 19:1) and crystallization from EtOH yielded 0.36 g (73%) of 2-[4(3-benzenesulphonyl-5-methyl-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-yl) -piperazin-yl]-ethanol as colorless crystals, m.p. 189-190°.

reactant | 1(2-hydroxyethyl)-piperazine | 2 mmol, 0.26 g | OCCN1CCNCC1 | C6H14N2O
reactant | 3-benzenesulphonyl-7-chloro-5-methyl-2-methylsulphanyl-pyrazolo[1,5 a]pyrimidine | 1 mmol, 0.35 g | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2Cl)C)SC | C14H12ClN3O2S2
product | 2-[4(3-benzenesulphonyl-5-methyl-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-yl) -piperazin-yl]-ethanol | 0.36 g, 73% | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2N2CCN(CC2)CCO)C)SC | C20H25N5O3S2
